US07674795B2
The procedure used in Example 68 is followed. In a 100 ml round-bottomed flask under an argon atmosphere, reflux, for 6 hours, a suspension of 950 mg of [2-amino-5-fluoro-4-(4-methylperhydro-1,4-diazepin-1-yl)phenyl]-amide of 9-oxo-9H-fluorene-4-carboxylic acid, obtained in the previous stage, in 15 ml of acetic acid. After purification by formation of a paste with diisopropyl ether, in this way we obtain 950 mg of 4-[5-fluoro-6-(4-methyl-perhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one, in the form of an orange powder, which is used as it is in the following stage, with the following characteristics:

reactant | [2-amino-5-fluoro-4-(4-methylperhydro-1,4-diazepin-1-yl)phenyl]-amide | 950 mg | NC1=C(C=C(C(=C1)N1CCN(CCC1)C)F)[NH-]
reactant | 9-oxo-9H-fluorene-4-carboxylic acid | O=C1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O | C14H8O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-[5-fluoro-6-(4-methyl-perhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one | 950 mg | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=O)C=C1N1CCN(CCC1)C | C26H23FN4O
